US07064124B2
N-(2-Chloropyridin-3-yl)-5-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
3-Amino-2-chloropyridine (0.141 g, 1.096 mmol), triethylamine (0.111 g, 1.096 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.185 g, 1.096 mmol) were added to a methylene chloride solution (100 ml) of 5-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.250 g, 0.730 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from a mixed solvent of ethyl acetate and hexane (2:1) to obtain the titled compound (0.149 g, 0.329 mmol, 45%).

reactant | 3-Amino-2-chloropyridine | 1.096 mmol, 0.141 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | triethylamine | 1.096 mmol, 0.111 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.096 mmol, 0.185 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.730 mmol, 0.250 g | CC1=C(C(C(=C(C1=O)C)C)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O | C19H18O6
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Chloropyridin-3-yl)-5-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.329 mmol, 0.149 g, 45% | ClC1=NC=CC=C1NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)C)C)=O)OC(C)=O)=O | C24H21ClN2O5
